US04925879
A solution of m-chloroperbenzoic acid (1.75 g) in dichloromethane (50 ml) was added over 30 minutes to a stirred solution of N,N-dimethyl-1-[1-(4-chlorophenyl)cyclobutyl]-4-methylthiobutylamine (2.4 g prepared in a similar manner to that described in Example 187) in dichloromethane (50 ml) at 0° C. The mixture was stirred at 0° C. for 11/2 hours and then kept at <5° C. overnight. The resulting solution was washed with 2N sodium hydroxide solution then brine and then dried and evaporated to give an oil which was treated with petroleum ether (b.p. 40°-60° C.). The resulting mixture was filtered and the filtrate evaporated to give a residue which was dissolved in 2N hydrochloric acid. The solution was washed with ether, basified and extracted with ether. The extracts were dried and evaporated to give N,N-dimethyl-1-[1-(4-chlorophenyl)cyclobutyl]-4-methylsulphinylbutylamine as an oil the boiling point of which was not determined.

reactant | m-chloroperbenzoic acid | 1.75 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N,N-dimethyl-1-[1-(4-chlorophenyl)cyclobutyl]-4-methylthiobutylamine | CN(C)C(CCCSC)C1(CCC1)C1=CC=C(C=C1)Cl | C17H26ClNS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2N | Cl | ClH
product | N,N-dimethyl-1-[1-(4-chlorophenyl)cyclobutyl]-4-methylsulphinylbutylamine | CN(C)C(CCCS(=O)C)C1(CCC1)C1=CC=C(C=C1)Cl | C17H26ClNOS
